US06294558B1
3-Methyl-4-[1-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenyl trifluoromethanesulfonate (step 4)
To a stirred solution of 3-methyl-4-[1-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenol (10.3 g, 0.76 mmol) in dichloromethane (5 ml) was added triethylamine (0.101 g, 1.0 mmol), trifluoromethanesulfonic anhydride (0.226 g, 0.8 mmol), and the mixture was stirred for 2 hours. The reaction mixture was poured into water. The whole was extracted with dichloromethane. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography eluting with ethyl acetate-hexane (1:2) to give title compound (0.37 g).

reactant | 3-methyl-4-[1-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenol | 0.76 mmol, 10.3 g | CC=1C=C(C=CC1C1=CC(=NN1C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F)O | C18H15F3N2O3S
reactant | triethylamine | 1.0 mmol, 0.101 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 0.8 mmol, 0.226 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-Methyl-4-[1-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]phenyl trifluoromethanesulfonate | 0.37 g | FC(S(=O)(=O)OC1=CC(=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F)C)(F)F | C19H14F6N2O5S2
